Name:  ___             Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
Bactrim / Clarithromycin / Levaquin / Penicillins / Actonel / 
doxycycline / Tessalon / Xifaxan
 
Attending: ___
 
Chief Complaint:
new headache
 
Major Surgical or Invasive Procedure:
LP on ___

 
History of Present Illness:
Ms. ___ is a ___ F w PMHx of migraines and 
asthma
who presents to ___ ED from her PCP's office for evaluation of
new headache semiology.
Ms. ___ reports that her current headache began roughly 1
week ago while she was doing some painting in her home. She
reports that she is usually very sensitive to paint fumes and
originally thought that her headache was due to breathing in the
fumes. The headache was centered over the right temple and was
characterized by a dull "heavy" feeling. 
That night, she felt herself getting a cold and began coughing.
She recalls that each time she coughed, her headache pain would
spike. She felt the pain over "the vein" and states that "it 
felt
like it was going to burst."
For the next week, her right sided headache persisted. She
attempted to take Excedrin (which usually aborts her migraines),
but it offered little relief. She states that a dull "ache" was
always present, but there would be intermittent "throbbing" at
least 20 times a day for seconds to minutes. She notes that the
throbbing was precipitated by coughing, valsalva, bending
forwards, and talking. She also had been using her inhaler for a
cough and notes that this can sometimes exacerbate or cause
headaches.
On ___, she finally tried a promethazine suppository (which
she uses to abort her migraines). The medication made her 
sleepy,
but the headache did not resolve. Last night she was kept awake
by "throbbing" pain in her temple and a "burning" sensation in
her ear. She felt hot, but did not take her temperature at that
time.
This morning she went to her PCP's office and had a reported
temperature of 100.2 for which she was given Tylenol. She was
then sent to the ED for neurology evaluation and possible
additional imaging.

In the ED, Ms. ___ continues to report a mild "ache" over
her right temple. She also complains of ear pain and burning. 
She
does continue to have intermittent throbbing, which she feels 
has
actually gotten worse over the past several days. She states 
that
the temple and some areas of the scalp are mildly tender to
palpation. She denies visual changes. She has some
photosensitivity out of the right eye only. She does report that
the evening prior she could hear her heartbeat in her right ear.
She feels that the right side of her face "does not feel right"
but does not readily endorse numbness. She denies any weakness.
She denies jaw claudication. She complains of right sided neck
pain which she wonders if it is due to coughing.

 
Past Medical History:
- migraines
  - usually centered over the left temple, throbbing character
    - associated with N/V, vertigo; no aura
  - aborts with Excedrin or promethazine
  - occurs ~2x per week
- asthma
- osteopenia
- benign palpitations (PVCs)
- thyroid nodule s/p biopsy 2 weeks ago (benign)
 
Social History:
___
Family History:
Father - deceased from MI at age ___
Mother - ?rheumatoid arthritis

 
Physical Exam:
PHYSICAL EXAMINATION
GEN - well appearing, well developed woman, pleasant
HEENT - no tenderness to touch over temples or sinuses, supple 
neck
NECK - full ROM, no meningismus
CV - RRR
RESP - normal WOB
ABD - soft, NT, ND
EXTR - WWP, atraumatic
SKIN - no rashes or lesions over R face or ear canal

NEUROLOGICAL EXAMINATION:
MS - Awake, alert, oriented x3. Attention to examiner easily
attained and maintained. Concentration maintained when recalling
months backwards. Recalls a coherent history. Structure of 
speech
demonstrates fluency with full sentences, intact repetition, and
intact verbal comprehension. Content of speech demonstrates
intact naming (high and low frequency) and no paraphasias. 
Normal
prosody. No dysarthria. No apraxia. No evidence of hemineglect.
No left-right agnosia.

CN - 
[II] PERRL 4->2 brisk. VF full to number counting save for a
R eye superior nasal quadrantinopsia that she states is
congenital. Optic discs are sharp bilaterally. 
[III, IV, VI] EOMI, no nystagmus. 
[V] V1-V3 without deficits to light touch or PP
bilaterally. 
[VII] No facial movement asymmetry with forced
eyelid closure or volitional smile. 
[VIII] Hearing intact to
finger rub bilaterally. 
[IX, X] Palate elevation symmetric. 
[XI] SCM/Trapezius strength ___ bilaterally. 
[XII] Tongue midline with full ROM.

MOTOR - Normal bulk and tone. No pronation, no drift. No 
orbiting
with arm roll. No tremor or asterixis.
 [Delt] [Bic] [Tri] [ECR] [IO] [IP] [Quad] [Ham] [TA] [Gas] 
[___]
  [C5]  [C5]  [C7]  [C6]  [T1] [L2]  [L3]  [L5]  [L4] [S1]  [L5]
L  5      5     5     5     5    5    5      5     5    5     5
R  5      5     5     5     5    5    5      5     5    5     5

SENSORY - No deficits to light touch or pin-prick throughout.

REFLEXES - 
 [Bic] [Tri] [___] [Quad] [Gastroc]
L 3      3      3      2        1
R 3      3      3      2        1
Plantar response flexor/withdraw bilaterally.
Pectoral jerks bilaterally.

COORD - No dysmetria with finger to nose. Good speed and intact
cadence with rapid alternating movements. Negative Romberg.

GAIT - Normal initiation. Narrow base. Normal stride length and
arm swing. Stable without sway.
 
Pertinent Results:
___ 11:30AM BLOOD WBC-5.6 RBC-4.85 Hgb-14.1 Hct-43.1 MCV-89 
MCH-29.1 MCHC-32.7 RDW-12.7 RDWSD-41.5 Plt ___
___ 11:30AM BLOOD Neuts-58.3 ___ Monos-4.3* Eos-1.3 
Baso-0.4 Im ___ AbsNeut-3.27 AbsLymp-1.99 AbsMono-0.24 
AbsEos-0.07 AbsBaso-0.02
___ 01:35PM BLOOD ___ PTT-32.7 ___
___ 01:10PM BLOOD Glucose-101* UreaN-17 Creat-0.6 Na-139 
K-3.9 Cl-102 HCO3-26 AnGap-15
___ 05:00AM BLOOD Albumin-4.5 Calcium-9.5 Phos-4.9* Mg-2.3
___ 05:00AM BLOOD ALT-28 AST-30 LD(LDH)-223 AlkPhos-77 
TotBili-0.5
___ 05:00AM BLOOD TSH-1.9
___ 11:30AM BLOOD CRP-0.8
___ 05:00AM BLOOD SED RATE-11   

CT head noncontrast ___:
IMPRESSION:   
1. No acute intracranial process.  Please note MRI is more 
sensitive for 
detection of subtle intracranial masses. 
2. Somewhat age advanced parenchymal atrophy. 
3. Incidental note is made of an expanded empty sella, which can 
be seen in the setting of benign intracranial hypertension.  
Correlation with clinical symptoms is recommended. 
4. Partially calcified structure within the fourth ventricle on 
the right 
which may represent asymmetric choroid plexus.  This can be 
followed-up on 
planned outpatient MRI. 

MRI/MRA head ___:
IMPRESSION: 
1. Empty sella, otherwise no other imaging evidence for 
intracranial 
hypertension.  No fourth ventricular mass or other acute 
intracranial 
abnormality. 
2. Minimal linear left frontal subcortical white matter abnormal 
signal, which is a nonspecific finding and may be secondary to 
chronic migraines. 
3. Normal MRA of the brain. 

Lumbar puncture ___:
1. Lumbar puncture at LL4-5 without complication. 
2. Opening pressure measuring 27 cm of H2O. 

___ 09:00AM CEREBROSPINAL FLUID (CSF) WBC-12 ___ 
Polys-96 Bands-1 ___ ___ 09:01AM CEREBROSPINAL FLUID (CSF) WBC-8 RBC-___* 
Polys-71 ___ Monos-2 ___ Macroph-1
___ 09:00AM CEREBROSPINAL FLUID (CSF) TotProt-32 Glucose-70

MRV w/o contrast ___:
IMPRESSION:   
1. Given the long segment of lack of flow related signal, 
thrombus or thrombus with possible recanalization is a 
consideration.  However, the diminutive signal within the left 
transverse sinus maybe due to slow flow, given asymmetric small 
size of the left transverse sinus seen on the prior head CT and 
lack of associated signal abnormalities on MRI/ MRA from 
yesterday. Additional MPRAGE with contrast is recommended for 
confirmation. 
2. Empty sella. 

CTV w/ contrast ___:
IMPRESSION:   
1. Patent dural vein sinuses. 
2. While left transverse sinus is small compared to the right 
this appears to be a congenital variation. 

 
Brief Hospital Course:
___ with hx migraine here for new atypical headache with normal 
funduscopic exam. History was mixed, with positive elements for 
either intracranial hypertension vs occipital neuralgia. Work up 
included:
- MRI w/ and w/o, MRA head: negative.
- LP: cell count was traumatic but benign appearing, with 
opening pressure 27 cm H2O.
- MRV w/o contrast: loss of signal L transverse venous sinus 
which is most likely due to differential in flow, but cannot 
rule out thrombus.
- CTV w/ contrast: slow flow through left transverse venous 
sinus, no occlusive thrombus.

Patient was started on topiramate 25mg qhs for headache 
prevention/possible elevated intracranial pressure (although she 
does not meet criteria for ___). She will follow up with 
outpatient Neurology for further evaluation/management. She was 
also arranged for outpatient ophthalmology referral with visual 
field testing (she preferred to call her own ophthalmologist at 
___.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Excedrin Migraine (aspirin-acetaminophen-caffeine) 250-250-65 
mg oral DAILY:PRN headache. 
2. Albuterol Inhaler 2 PUFF IH Q6H:PRN shortness of breath 
3. Promethazine 25 mg PO BID:PRN headache. 
4. Calcium 500 + D (calcium carbonate-vitamin D3) 500 
mg(1,250mg) -200 unit oral DAILY 
5. Cetirizine 5 mg PO DAILY 
6. Fish Oil (Omega 3) 1000 mg PO DAILY 

 
Discharge Medications:
1. Albuterol Inhaler 2 PUFF IH Q6H:PRN shortness of breath 
2. Cetirizine 5 mg PO DAILY 
3. Calcium 500 + D (calcium carbonate-vitamin D3) 500 
mg(1,250mg) -200 unit oral DAILY 
4. Excedrin Migraine (aspirin-acetaminophen-caffeine) 250-250-65 
mg oral DAILY:PRN headache. 
5. Fish Oil (Omega 3) 1000 mg PO DAILY 
6. Promethazine 25 mg PO BID:PRN headache. 
7. Topiramate (Topamax) 25 mg PO DAILY 
RX *topiramate 25 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*2

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Headache
Slightly elevated intracranial pressure
Hypoplastic left transverse venous sinus
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted for evaluation of a new headache. We performed 
lumbar puncture that showed a slightly elevated pressure of 27 
(normal is under 25). We performed MRI of your brain as well as 
MRA/MRV which did not show any abnormal mass or blood clot, 
which can sometimes increase the pressure. Because the 
intracranial pressure is only slightly elevated, we are not sure 
whether it is entirely responsible for your headache. Therefore 
we started you on a medication called topiramate (Topamax) which 
can help with both pressure-related and regular migraine 
headaches. We will also refer you to Ophthalmology for better 
evaluation of your eyes and vision, to look for any changes that 
could be due to high pressure.

You should also follow up with Neurology as an outpatient who 
will continue to treat your headache and can make further 
decisions for evaluation and management.

It was a pleasure taking care of you. We wish you the best.
Sincerely,
Your ___ Care Team
 
Followup Instructions:
___